US08466143B2
To a mixture of ethyl pyrrole-2-carboxylate (8.1 g, 58.3 mmol) and AlCl3 (15.5 g, 2 equiv) in 1,2-dichloroethane-nitromethane (1:1, 120 ml) was added α,α,-dichloromethyl methyl ether (6.4 mL, 2 equiv) dropwise at −20° C. Stirring was continued for 1 h at −20° C. and the reaction mixture was stored at −20° C. overnight. It was then poured into ice. Organic layer was separated and aqueous layer was extracted with DCM. The combined organic layers were washed with water, aqueous NH4OH and water and dried over Na2SO4. Evaporation of solvent afforded ethyl 4-formylpyrrole-2-carboxylate as a solid (8.8 g, 90%). 1H-NMR(CDCl3): δ 10.40 (1H, s), 8.95 (1H, s), 7.60 (1H, dd), 7.33 (1H, dd), 4.36 (2H, q), 1.39 (3H, t).

reactant | ethyl pyrrole-2-carboxylate | 58.3 mmol, 8.1 g | N1C(=CC=C1)C(=O)OCC | C7H9NO2
reactant | AlCl3 | 15.5 g, 2 equiv | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | α,α,-dichloromethyl methyl ether | 6.4 mL, 2 equiv | COC(Cl)Cl | C2H4Cl2O
solvent | 1,2-dichloroethane nitromethane | 120 ml | ClCCCl.[N+](=O)([O-])C
product | ethyl 4-formylpyrrole-2-carboxylate | 8.8 g, 90% | C(=O)C=1C=C(NC1)C(=O)OCC | C8H9NO3
